US07348017B2
3,5-Dinitro-4-hydroxyphenylacetic acid is refluxed in methanol in the presence of sulfuric acid, to give methyl 2-(3,5-dinitro-4-hydroxyphenyl)acetate.

reactant | 3,5-Dinitro-4-hydroxyphenylacetic acid | [N+](=O)([O-])C=1C=C(C=C(C1O)[N+](=O)[O-])CC(=O)O | C8H6N2O7
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | methanol | CO | CH4O
product | methyl 2-(3,5-dinitro-4-hydroxyphenyl)acetate | [N+](=O)([O-])C=1C=C(C=C(C1O)[N+](=O)[O-])CC(=O)OC | C9H8N2O7
